US06344449B1
3,4-dihydro-3-(4-piperidinyl)-2(1H)quinolone-hydrochloride
A mixture of 1.1 g (4.949 mmol) of 3-(4-pyridinyl)-2(1H)-quinolone (D. R. Bragg and D. G. Wibberley, J. Chem. Soc. 1961, 5074-5077), 100 ml of ethanol, 5 ml (5 mmol) of iN hydrochloric acid and 0.2 g platinum (IV) oxide was hydrogenated for 4 hours at room temperature. The catalyst was filtered off, the filtrate evaporated down in vacuo and the residue was triturated with isopropanol. The precipitated crystals were suction filtered, washed with isopropanol and diethylether and dried in vacuo. Yield: 0.64 g (56.2% of theory).

reactant | 3-(4-pyridinyl)-2(1H)-quinolone | 4.949 mmol, 1.1 g | N1=CC=C(C=C1)C=1C(NC2=CC=CC=C2C1)=O | C14H10N2O
reactant | ethanol | 100 ml | C(C)O | C2H6O
reactant | hydrochloric acid | Cl | ClH
catalyst | platinum (IV) oxide | 0.2 g | [Pt](=O)=O
product | 3,4-dihydro-3-(4-piperidinyl)-2(1H)quinolone-hydrochloride | Cl.N1CCC(CC1)C1C(NC2=CC=CC=C2C1)=O | InChI=1S/C14H18N2O.ClH/c17-14-12(10-5-7-15-8-6-10)9-11-3-1-2-4-13(11)16-14;/h1-4,10,12,15H,5-9H2,(H,16,17);1H
